US08022209B2
Step B: Preparation of 4-(4-Chloro-6-thiophen-3-yl-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 4-(4,6-dichloro-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (167.1 mg, 0.5 mmol) in anhydrous 1,4-dioxane (4 mL) in an oven-dried flask was added 3-thiopheneboronic acid (70.4 mg, 0.55 mmol), Pd[P(t-Bu)3]2 (2.5 mg, 0.005 mmol), tris(dibenzylideneacetone)-dipalladium(0) (2.3 mg, 0.0025 mmol), and KF (64 mg, 1.1 mmol). The resulting mixture was vacuum flushed with argon and heated overnight at 90° C. The reaction mixture was cooled and passed through a pad of diatomaceous earth, washing with EtOAc. The filtrate was concentrated and the residue was purified by preparative TLC (EtOAc/hexanes, 1:4) to yield a white solid, which was used without further purification.

reactant | 4-(4,6-dichloro-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.5 mmol, 167.1 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=N1)Cl)Cl | C12H17Cl2N5O2
reactant | 3-thiopheneboronic acid | 0.55 mmol, 70.4 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | KF | 1.1 mmol, 64 mg | [F-].[K+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd[P(t-Bu)3]2 | 0.005 mmol, 2.5 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.0025 mmol, 2.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(4-Chloro-6-thiophen-3-yl-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=N1)Cl)C1=CSC=C1 | C16H20ClN5O2S
